US08912180B2
N-(2-{[6-Chloro-2-(methylsulfanyl)pyrimidin-4-yl]amino}-5-methylphenyl)acetamide (270 mg) was dissolved in a mixed solvent of ethanol (2.8 mL) and 1,4-dioxane (2.8 mL), and 6 M hydrochloric acid (9.6 mL) was added thereto, followed by heating and refluxing for 3 hours. After air-cooling to room temperature, the pH was adjusted to 6 to 7 using saturated aqueous sodium bicarbonate, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to obtain N1-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-4-methylbenzene-1,2-diamine (230 mg).

reactant | N-(2-{[6-Chloro-2-(methylsulfanyl)pyrimidin-4-yl]amino}-5-methylphenyl)acetamide | 270 mg | ClC1=CC(=NC(=N1)SC)NC1=C(C=C(C=C1)C)NC(C)=O | C14H15ClN4OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 2.8 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 2.8 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 6 M, 9.6 mL | Cl | ClH
product | N1-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-4-methylbenzene-1,2-diamine | 230 mg | ClC1=CC(=NC(=N1)SC)NC=1C(=CC(=CC1)C)N | C12H13ClN4S
